US05565483
(±)-3-(5-Chloro-2-hydroxyphenyl)-1,3-dihydro-6-(trifluoromethyl)-2H-indol-2-one
A solution of BBr3 (12 mL, 12 mmol; 1M in CH2Cl2) was added to a stirred cold (-78° C.) solution of (±)-3-(5-chloro-2-methoxyphenyl)-1,3-dihydro -6-(trifluoromethyl)-2H-indol-2-one (1.37 g, 4 mmol) in anhydrous CH2Cl2 (20 mL). The mixture was allowed to warm to ambient temperature and maintained for 2 hours. The reaction was quenched with saturated NaHCO3 and then acidified with 1N HCl. The organic layer was separated, washed with water, brine and then dried (MgSO4). Evaporation of CH2Cl2 gave an off-white solid which was triturated with warm CH2Cl2 to afford the title compound (1.21 g, 93%): mp 266°-268° C.; IR (KBr, cm-1) 3320, 1690, 1310, 1250, 1160, 1125; 1H NMR (300 MHz, DMSO-d6)δ 4.85 (1H, s), 6.75 (1H, d, J=8.6 Hz), 7.04 (1H, s), 7.11, (1H, d, J=7.7 Hz), 7.17 (1H, dd, J=8.6 and 2.6 Hz), 7.22 (1H, d, J=8.0 Hz), 7.26 (1H, d, J=2.4 Hz), =9.82 (1H, s), 10.73 (1H, s); 13C NMR (75 MHz, DMSO-d6)δ 48.47, 104.94, 116.84. 118.16, 122.27, 124.20, 125.61, 126.06, 128.05, 128.41, 130.76, 134.72, 143.69, 154.26, 176.92. MS m/e 328 (MH+).

reactant | BBr3 | 12 mmol, 1M, 12 mL | B(Br)(Br)Br | BBr3
reactant | (±)-3-(5-chloro-2-methoxyphenyl)-1,3-dihydro -6-(trifluoromethyl)-2H-indol-2-one | 4 mmol, 1.37 g | ClC=1C=CC(=C(C1)C1C(NC2=CC(=CC=C12)C(F)(F)F)=O)OC | C16H11ClF3NO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-(5-Chloro-2-hydroxyphenyl)-1,3-dihydro-6-(trifluoromethyl)-2H-indol-2-one | 1.21 g, 93% | ClC=1C=CC(=C(C1)C1C(NC2=CC(=CC=C12)C(F)(F)F)=O)O | C15H9ClF3NO2
